US05386019
Benzyl 2,4-dihydroxy-6-(1-heptyl)-benzoate (15).
Assembly of Synthesized Intermediates into KS-501, ent-KS-501, KS-502 and ent-KS-502.

reactant | KS-501 | CCCCCCCC1=CC(=CC(=C1)OC(=O)C2=C(C=C(C=C2CCCCCCC)O)O[C@H]3[C@@H]([C@H](C(O3)[C@@H](CO)O)O)O)O | C33H48O10
reactant | KS-502 | CCCCCCCC1=CC(=CC(=C1C(=O)OC2=CC(=C(C(=C2)CCCCCCC)C(=O)O)O)O[C@H]3[C@@H]([C@H](C(O3)[C@@H](CO)O)O)O)O | C34H48O12
product | Benzyl 2,4-dihydroxy-6-(1-heptyl)-benzoate | OC1=C(C(=O)OCC2=CC=CC=C2)C(=CC(=C1)O)CCCCCCC | C21H26O4
